US07683060B2
Step 1. Tert-butyl(2S)-2-[(4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoyl)amino]-3,3-dimethylbutanoate
N,N-Diisopropylethylamine (42 μL, 0.24 mmol) was added to a mixture of 4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoic acid (33 mg, 0.080 mmol), tert-butyl (2S)-2-amino-3,3-dimethylbutanoate hydrochloride (23 mg, 0.10 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (42 mg, 0.096 mmol) in DMF (1 mL). The mixture was stirred at RT overnight, and quenched with saturated sodium bicarbonate (5 mL). The reaction mixture was extracted with ethyl acetate (3×5 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The residue was flash chromatographed on a silica gel column with ethyl acetate in hexanes (40%) to afford the desired product. Analytical LCMS: (M+H)+=584.2

reactant | N,N-Diisopropylethylamine | 0.24 mmol, 42 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoic acid | 0.080 mmol, 33 mg | S1C=NC2=C1C=C(C=C2)C2(CC2)C2=NN=C1N2N=C(C=N1)C1=CC=C(C(=O)O)C=C1 | C21H14N6O2S
reactant | tert-butyl (2S)-2-amino-3,3-dimethylbutanoate hydrochloride | 0.10 mmol, 23 mg | Cl.N[C@H](C(=O)OC(C)(C)C)C(C)(C)C
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.096 mmol, 42 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | Tert-butyl(2S)-2-[(4-{3-[1-(1,3-benzothiazol-6-yl)cyclopropyl][1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl}benzoyl)amino]-3,3-dimethylbutanoate | S1C=NC2=C1C=C(C=C2)C2(CC2)C2=NN=C1N2N=C(C=N1)C1=CC=C(C(=O)N[C@H](C(=O)OC(C)(C)C)C(C)(C)C)C=C1 | C31H33N7O3S
